US07750040B2
A solution of (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid (111 mg, 0.50 mmol), TBTU (177 mg, 0.55 mmol) and ethyl-diisopropylamine (282 μL, 1.65 mmol) in DMF (15 mL) is allowed to stand at rt for 20 min. A solution of 4-aminomethyl-2-methyl-phenol hydrochloride (96 mg, 0.55 mmol) and ethyl-diisopropylamine (94 μL, 0.55 mmol) in DMF (1.5 mL) is added and the mixture is allowed to stand at rt for 3 h. After the addition of formic acid (0.2 mL), the mixture is separated by HPLC to afford (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-hydroxy-3-methyl-benzylamide (86 mg) as a colourless oil. LC-MS: tR=0.99 min, [M+1]+=342.17.

reactant | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid | 0.50 mmol, 111 mg | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C(=O)O)C | C12H14O2S
reactant | TBTU | 0.55 mmol, 177 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyl-diisopropylamine | 1.65 mmol, 282 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-aminomethyl-2-methyl-phenol hydrochloride | 0.55 mmol, 96 mg | Cl.NCC1=CC(=C(C=C1)O)C
reactant | ethyl-diisopropylamine | 0.55 mmol, 94 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | formic acid | 0.2 mL | C(=O)O | CH2O2
product | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-hydroxy-3-methyl-benzylamide | 86 mg | OC1=C(C=C(CNC(=O)C2=C3C[C@@H]4[C@H](C3=C(S2)C)C4(C)C)C=C1)C | C20H23NO2S
